US06710064B2
(2S,4R)-4-(4-Bromobenzyloxy)-2-methyl-proline methyl ester
SOCl2 (0.27 mL) was carefully added dropwise to 2.7 mL of MeOH at −5° C. To this mixture was added (2S,4R)-N-Boc-4-(4-Bromobenzyloxy)-2-methyl-proline (0.25 g) in 2.7 mL of MeOH. The reaction mixture was allowed to warm to 20° C. and stirred overnight. The solvent was evaporated under reduced pressure and the residue dissolved in DCM. The organic layer was washed with water, dried over MgSO4, and evaporated in vacuo to afford the titled compound (85 mg).

reactant | SOCl2 | 0.27 mL | O=S(Cl)Cl | Cl2OS
reactant | (2S,4R)-N-Boc-4-(4-Bromobenzyloxy)-2-methyl-proline | 0.25 g | C(=O)(OC(C)(C)C)N1[C@](C(=O)O)(C[C@H](C1)OCC1=CC=C(C=C1)Br)C | C18H24BrNO5
reactant | MeOH | 2.7 mL | CO | CH4O
reactant | MeOH | 2.7 mL | CO | CH4O
product | (2S,4R)-4-(4-Bromobenzyloxy)-2-methyl-proline methyl ester | 85 mg | COC([C@]1(NC[C@@H](C1)OCC1=CC=C(C=C1)Br)C)=O | C14H18BrNO3
